US07786132B2
A catalytic amount of N,N-dimethylformamide (2 drops) was added to a stirred suspension of 5-bromo-2-(methylthio)pyrimidine4-carboxylic acid (2.07 g, 8.33 mmol) and a 2 M solution of oxalyl chloride (21 mL, 0.042 mol) in dichloromethane under nitrogen at r.t. Vigorous effervescence was observed. After 30 min everything had dissolved and the solvent was then evaporated in vacuo. The residue was dissolved in dichloromethane (20 mL) and placed under nitrogen. Triethylamine (2.32 mL, 16.66 mmol) was added to this stirred solution at r.t. followed by 4-aminopyridin-3-yl diethylcarbamodithioate (2.01 g, 8.33 mmol). Everything quickly dissolved with a noticeable exotherm. After 3 h at r.t. tlc showed a new major product. The reaction was diluted with dichloromethane (20 mL) and washed with a saturated aqueous solution of sodium hydrogen carbonate (40 mL). The organic layer was separated, dried over sodium sulfate, filtered and the solvent evaporated in vacuo. The residue was purified by flash chromatography (ethyl acetate/hexane 15:85 to 60:40) to yield 4-(5-bromo-2-(methylthio)pyrimidine-6-carboxamido)pyridin-3-yl diethylcarbamodithioate (1.99 g, 51%) as a pale yellow amorphous solid. 1H NMR: δ (CDCl3, 400 MHz) 1.30 (t, J=7 Hz, 3H), 1.51 (t, J=7 Hz, 3H), 2.60 (s, 3H), 3.93-4.08 (m, 4H), 8.57-8.62 (m, 2H), 8.69 (d, J=6 Hz, 1H), 8.85 (s, 1H), 10.67 (s, 1H).

reactant | 5-bromo-2-(methylthio)pyrimidine4-carboxylic acid | 8.33 mmol, 2.07 g | BrC=1C(=NC(=NC1)SC)C(=O)O | C6H5BrN2O2S
reactant | oxalyl chloride | 0.042 mol, 21 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | Triethylamine | 16.66 mmol, 2.32 mL | C(C)N(CC)CC | C6H15N
reactant | 4-aminopyridin-3-yl diethylcarbamodithioate | 8.33 mmol, 2.01 g | C(C)N(C(=S)SC=1C=NC=CC1N)CC | C10H15N3S2
catalyst | N,N-dimethylformamide | 2 drops | CN(C=O)C | C3H7NO
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 4-(5-bromo-2-(methylthio)pyrimidine-6-carboxamido)pyridin-3-yl diethylcarbamodithioate | 1.99 g, 51% | C(C)N(C(=S)SC=1C=NC=CC1NC(=O)C1=C(C=NC(=N1)SC)Br)CC | C16H18BrN5OS3
